US08710038B2
(2Z,4E)-1-(3-Chlorophenyl)-3-hydroxy-5-(4-hydroxyphenyl)penta-2,4-dien-1-one;
NaH (60% dispersion, 0.477 g, 11.9 mmol) was added to a solution of methyl 3-chlorobenzoate (0.677 g, 3.97 mmol) and 4-hydroxybenzylideneacetone (0.644 g, 3.97 mmol) in anhydrous DMF (20 mL) at 0° C. The reaction was allowed to warm to room temperature overnight and quenched with saturated aqueous NH4Cl and neutralized with 1M HCl. The reaction was diluted with ethyl acetate (80 mL) and the organic layer washed successively with saturated aqueous NaHCO3 and brine. The organic phase was separated and dried over Na2SO4, filtered, and concentrated in vacuo to provide the condensation product as a yellow oil (0.717 g, 60% yield).

reactant | NaH | 11.9 mmol, 0.477 g | [H-].[Na+]
reactant | methyl 3-chlorobenzoate | 3.97 mmol, 0.677 g | ClC=1C=C(C(=O)OC)C=CC1 | C8H7ClO2
reactant | 4-hydroxybenzylideneacetone | 3.97 mmol, 0.644 g | OC1=CC=C(C=CC(C)=O)C=C1 | C10H10O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2Z,4E)-1-(3-Chlorophenyl)-3-hydroxy-5-(4-hydroxyphenyl)penta-2,4-dien-1-one | 0.717 g, 60% yield | ClC=1C=C(C=CC1)C(\C=C(\C=C\C1=CC=C(C=C1)O)/O)=O | C17H13ClO3
